US04180583
1-[4-(p-Bromophenyl)-3-butenyl]-4-(diphenylmethylene)-piperidine hydrochloride
A mixture of 10 g (0.02 mole) of α-(p-bromophenyl)-4-(α-hydroxy-α-phenylbenzyl)-1-piperidinebutanol, 150 ml of conentrated HCl, 150 ml of water and 50 ml of n-butanol was heated for 2 hours at reflux. The solvent was removed under vacuum, and the remaining residue was recrystallized from ethyl acetate to give the desired product, M.P. 215°-217° C. Alternatively, the title compound may be prepared by a similar acid dehydration reaction of α-(p-bromophenyl)-4-(diphenylmethylene)-1-(piperidinebutanol hydrochloride, M.P. 215°-217° C.

reactant | α-(p-bromophenyl)-4-(α-hydroxy-α-phenylbenzyl)-1-piperidinebutanol | 0.02 mole, 10 g | BrC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)O | C28H32BrNO2
reactant | HCl | 150 ml | Cl | ClH
reactant | water | 150 ml | O | H2O
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 1-[4-(p-Bromophenyl)-3-butenyl]-4-(diphenylmethylene)-piperidine hydrochloride | Cl.BrC1=CC=C(C=C1)C=CCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H28BrN.ClH/c29-27-16-14-23(15-17-27)9-7-8-20-30-21-18-26(19-22-30)28(24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-7,9-17H,8,18-22H2;1H
